US04798897
In 100 ml of ice water was dissolved 10.6 g of 5-isoquinolinesulfonyl chloride hydrochloride, and the pH of the solution was adjusted to 6 with a saturated aqueous sodium hydrogencarbonate solution, followed by extraction with of 200 ml of dichloromethane. The dichloromethane layer was added dropwise to a 100 ml of dichloromethane solution containing 6.0 g of 3-hydroxypiperidine and 6.0 g of triethylamine over 30 minutes while cooling with ice. The mixture was stirred at a temperature of 15° C. to 20° C. for 3 hours, washed with water, and dried with anhydrous magnesium sulfate. Then, the dichloromethane was removed under reduced pressure to obtain 8.50 g of 1-(5-isoquinolinesulfonyl)-3-hydroxypiperidine.

reactant | 5-isoquinolinesulfonyl chloride hydrochloride | 10.6 g | Cl.C1=NC=CC=2C(=CC=CC12)S(=O)(=O)Cl
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
product | 1-(5-isoquinolinesulfonyl)-3-hydroxypiperidine | 8.50 g | C1=NC=CC=2C(=CC=CC12)S(=O)(=O)N1CC(CCC1)O | C14H16N2O3S
